US09290451B2
5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(1-(hydroxymethyl)cyclopentyl)picolinamide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 1-amino-cyclopentanemethanol (CAN 10316-79-7) as starting materials, LC-MS (UV peak area/ESI) 100%, 331.2014 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 1-amino-cyclopentanemethanol | NC1(CCCC1)CO | C6H13NO
product | 5-Cyclopropyl-6-(cyclopropylmethoxy)-N-(1-(hydroxymethyl)cyclopentyl)picolinamide | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)NC1(CCCC1)CO | C19H26N2O3
